US05430043
Preparation of N-chloroacetyl-beta-alanine ethyl ester
Beta-alanine hydrochloride salt (50 g, 327 mmol) and chloroacetic anhydride (55.8 g, 327 mmol) were added to acetonitrile (200 mL). The solution was cooled to 0° C. and triethyl amine (66 g, 91 mL, 640 mmol) was added via a pressure equalizing funnel over a period of 30 minutes. After 3 hours at 25° C. the solvent was removed in vacuo. Ether and water were added and the layers separated. The ether layer was washed with 10% HCl, then saturated K2CO3 and dried over MgSO4 to give an oil that was distilled 105°-109° C. at 2.0 mmHg (50 g, 79%).

reactant | Beta-alanine hydrochloride salt | 327 mmol, 50 g | Cl.NCCC(=O)O
reactant | chloroacetic anhydride | 327 mmol, 55.8 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | triethyl amine | 640 mmol, 91 mL, 66 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | N-chloroacetyl-beta-alanine ethyl ester | C(C)OC(CCNC(CCl)=O)=O | C7H12ClNO3
